US07825253B2
4-Fluoro-N-[2-(2-trifluoromethoxy-benzylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=491.8 (M+H+), was prepared in accordance with the general method of example 89 from 5-nitro-2-chloroquinoline, 4-fluorobenzenesulfonylchloride and 2-(trifluoromethoxy)benzylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 4-fluorobenzenesulfonylchloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 2-(trifluoromethoxy)benzylamine | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
product | 4-Fluoro-N-[2-(2-trifluoromethoxy-benzylamino)-quinolin-5-yl]-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC(F)(F)F | C23H17F4N3O3S
